US06316605B1
3,5-dimethoxyaniline was bromided with n-hexylbromide so as to obtain 1-di-n-hexylamino-3,5-dimethoxybenzene. This was nitrosoized so as to obtain 1-di-n-hexylamino-3,5-dimethoxy-4-nitrobenzene.

reactant | 3,5-dimethoxyaniline | COC=1C=C(N)C=C(C1)OC | C8H11NO2
reactant | n-hexylbromide | C(CCCCC)Br | C6H13Br
product | 1-di-n-hexylamino-3,5-dimethoxybenzene | C(CCCCC)N(C1=CC(=CC(=C1)OC)OC)CCCCCC | C20H35NO2
